US04440779
Step 9: Preparation of 5,10-dihydro-1,4-dimethyl-10-oxo-4H-benzo[5,6]cyclohepta[1,2-b]pyrrol-2-yl-acetic acid
To a suspension of methyl 5,10-dihydro-1,4-dimethyl-10-oxo-4H-benzo-[5,6]-cyclohepta[1,2-b]pyrrol-2-acetate (26 mg, 0.087 mmoles) in a mixture of 4 cc ethanol and 0.5 cc water, slight ice-bath cooling, is added 0.06 cc of 2.5 N sodium hydroxide solution. After stirring overnight (nitrogen atmosphere) at ambient temperatures, water (4 cc) is added, the ethanol removed in vacuo, the mixture filtered, and the filtrate acidified with 2 N hydrochloric acid. After aging, the supernatent aqueous solution is decanted from the yellow oil that forms, and the oil washed well with water. The oil is then dissolved in ether, the ether solution dried and concentrated to 20.3 mg (83%) of 5,10-dihydro-1,4-dimethyl-10-oxo-4H-benzo[5,6]cyclohepta[1,2-b]pyrrol-2-yl-acetic acid as a yellow oil.

reactant | methyl 5,10-dihydro-1,4-dimethyl-10-oxo-4H-benzo-[5,6]-cyclohepta[1,2-b]pyrrol-2-acetate | 0.087 mmoles, 26 mg | CN1C2=C(C=C1CC(=O)OC)C(CC1=C(C2=O)C=CC=C1)C | C18H19NO3
reactant | sodium hydroxide | 2.5 N, 0.06 cc | [OH-].[Na+]
solvent | ethanol | 4 cc | C(C)O | C2H6O
solvent | water | 0.5 cc | O | H2O
solvent | water | 4 cc | O | H2O
product | 5,10-dihydro-1,4-dimethyl-10-oxo-4H-benzo[5,6]cyclohepta[1,2-b]pyrrol-2-yl-acetic acid | CN1C2=C(C=C1CC(=O)O)C(CC1=C(C2=O)C=CC=C1)C | C17H17NO3
